US08802688B2
To a suspension of methyl 2-carbamoyl-1H-indole-5-carboxylate (300 mg, 1.38 mmol) in tetrahydrofuran (4.5 mL) and ethylene glycol (4.5 mL) was added potassium hydroxide (3.16 g, 56.4 mmol). The mixture was heated to reflux and stirred for 2 hours. The reaction was cooled to room temperature and diluted with water. The tetrahydrofuran was removed under reduced pressure. The solids were filtered off and the filtrate was acidified to pH 4 with concentrated hydrochloric acid. The resulting precipitate was collected by filtration and dried under vacuum to give 2-carbamoyl-1H-indole-5-carboxylic acid (230 mg, 82%). 1H NMR (400 MHz, DMSO-d6, δ): 12.53 (br. s., 1 H), 11.88 (br. s., 1 H), 8.28 (s, 1 H), 8.04 (br. s., 1 H), 7.77 (d, J=8.6 Hz, 1 H), 7.46 (m, J=8.6 Hz, 2 H), 7.25 (s, 1 H).

reactant | methyl 2-carbamoyl-1H-indole-5-carboxylate | 1.38 mmol, 300 mg | C(N)(=O)C=1NC2=CC=C(C=C2C1)C(=O)OC | C11H10N2O3
reactant | potassium hydroxide | 56.4 mmol, 3.16 g | [OH-].[K+]
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
solvent | ethylene glycol | 4.5 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 2-carbamoyl-1H-indole-5-carboxylic acid | 230 mg, 82% | C(N)(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C10H8N2O3
